US04005199
5.7 G. of 4-acetylamino-3,5-bis-trifluoromethylaniline is dissolved in 16 ml. of acetic acid and cooled to 10° C., 3.2 ml. of concentrated hydrochloric acid is added, and the mixture cooled to 0°-5° C. with stirring. A solution of 1.4 g. of sodium nitrite in 4 ml. of water is added dropwise, with vigorous stirring and the resultant mixture stirred for 1/2 hour. The aqueous diazonium salt solution is then added to a solution of 0.4 g. of cupric chloride in 50 ml. of acetic acid which has been previously saturated at 20° C. with sulfur dioxide. The reaction mixture is stirred for 10 minutes, while sulfur dioxide is bubbled through this mixture and for 20 minutes further. The reaction mixture is poured into ice, extracted with methylene chloride, washed with water, dried and evaporated in vacuo. The residual 4-acetylamino-3,5-bis-trifluoromethylbenzenesulfonylchloride is again dissolved in methylene chloride and added to an excess of liquid ammonia. The contents of the flask is allowed to evaporate at room temperature overnight, affording 4-acetylamino-3,5-bis-trifluoromethylbenzenesulfonamide. This is taken up with 25 ml. of 6N hydrochloric acid and treated on a steam bath for 3 hours. It is cooled in ice and allowed to crystallize. The residue is collected by filtration, washed with water, and crystallized from aqueous ethanol to afford pure 4-amino-3,5-trifluoromethylbenzenesulfonamide.

reactant | 4-acetylamino-3,5-bis-trifluoromethylaniline | C(C)(=O)NC1=C(C=C(N)C=C1C(F)(F)F)C(F)(F)F | C10H8F6N2O
reactant | hydrochloric acid | Cl | ClH
reactant | sodium nitrite | N(=O)[O-].[Na+]
reactant | sulfur dioxide | S(=O)=O | O2S
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | O | H2O
product | 4-acetylamino-3,5-bis-trifluoromethylbenzenesulfonamide | C(C)(=O)NC1=C(C=C(C=C1C(F)(F)F)S(=O)(=O)N)C(F)(F)F | C10H8F6N2O3S
